US08349839B2
3-(t-Butoxycarbonylamino)pyrrolidine (1 g, 1 eq) is dissolved in DMF (15 mL) and NaH 60% in oil (258 mg, 1.2 eq) is added followed by 2-bromoethyl methyl ether (656 μL, 1.3 eq). Water (150 mL) and EtOAc (150 mL) are added and the two layers are separated. The aqueous layer is extracted with EtOAc (2×150 mL). The combined organic layers are washed with brine, dried over MgSO4 filtered and concentrated under reduced pressure. The residue is purified by flash chromatography (100% EtOAc). The isolated compound (300 mg, 23%) is dissolved in dioxane (2 mL) and HCl 4 M solution in dioxane (5 mL, 20 eq) is added. The solution is stirred for 1 h and the reaction mixture is then concentrated and co-evaporated with toluene to afford 1-(2-methoxy-ethyl)-pyrrolidin-3-ylamine 2HCl (266 mg, 100%).

reactant | 3-(t-Butoxycarbonylamino)pyrrolidine | 1 g, 1 eq | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | NaH | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 656 μL, 1.3 eq | COCCBr | C3H7BrO
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 5 mL, 20 eq | O1CCOCC1 | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | Water | 150 mL | O | H2O
product | 1-(2-methoxy-ethyl)-pyrrolidin-3-ylamine 2HCl | 266 mg, 100% | Cl.Cl.COCCN1CC(CC1)N | InChI=1S/C7H16N2O.2ClH/c1-10-5-4-9-3-2-7(8)6-9;;/h7H,2-6,8H2,1H3;2*1H
